US08669234B2
2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the procedure used to prepare compound 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester, except that 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-fluoren-2-yl]-[1,3,2]dioxaborolane was used instead of 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9,10-dihydro-phenanthren-2-yl]-[1,3,2]dioxaborolane. m/z 637.1 (M+H)+.

reactant | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C38H46N6O4
reactant | 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-fluoren-2-yl]-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=CC=2CC3=CC(=CC=C3C2C=C1)B1OC(C(O1)(C)C)(C)C)C | C25H32B2O4
product | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C37H44N6O4
